US06794395B1
(5) 3-(Z)-{1-anilino-1-[3-(acetylaminomethyl)-phenyl]-methylidene}-5,6-dimethoxy-2-indolinone
Prepared from 3-(Z)-[1-anilino-1-(3-aminomethyl-phenyl)-methylidene]-5,6-dimethoxy-2-indolinone and acetic anhydride

reactant | 3-(Z)-[1-anilino-1-(3-aminomethyl-phenyl)-methylidene]-5,6-dimethoxy-2-indolinone | N(C1=CC=CC=C1)\C(\C1=CC(=CC=C1)CN)=C\1/C(NC2=CC(=C(C=C12)OC)OC)=O | C24H23N3O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(Z)-{1-anilino-1-[3-(acetylaminomethyl)-phenyl]-methylidene}-5,6-dimethoxy-2-indolinone | N(C1=CC=CC=C1)\C(\C1=CC(=CC=C1)CNC(C)=O)=C\1/C(NC2=CC(=C(C=C12)OC)OC)=O | C26H25N3O4
